* NetLang Generated SPICE Netlist
R_R1 N_R1_p1 N_R1_p2 10000
R_R2 N_R1_p2 0 20000
R_R3 N_R1_p1 N_R3_p2 10000
R_R4 N_R3_p2 0 10000
R_Rx N_R1_p2 N_R3_p2 5000
V_V1 N_R1_p1 0 10

.control
op
print all
quit
.endc
